US07521465B2
Step II: Preparation of (S)-2-tert-Butoxycarbonylamino-3-(4-(4-formylphenoxy)phenyl)-propanoic acid methyl ester
Dissolve (S)-2-tert-butoxycarbonylamino-3-(4-(4-formylphenoxy)phenyl)-propanoic acid (2.97 Kg, 7.7 moles) in dry DMF (14.84 L). Add NaHCO3 (1.29 Kg, 15.4 moles) and iodomethane (6.56 Kg, 46.19 moles) under inert atmosphere and stirred at room temperature for 14 h. Check completion of the reaction by TLC (SiO2 gel, CHCl3-MeOH, 9:1). Poured the reaction mixture in water and stirred for 15 min. Add ethyl acetate (40 L). Oraganic layer was washed with brine and evaporated under reduced pressure. Yield 3.06 Kg, 99.3%, HPLC purity 94.6% and chiral purity 100% ee. 1HNMR (300 MHz, CDCl3): 9.92 (s, 1H), 7.83 (d, J=8.7 Hz, 2H), 7.16 (d, J=8.7 Hz, 2H), 7.02 (overlapped d, 4H), 5.03 (brs, 1H), 4.59 (m, 1H), 3.74 (s, 3H), 3.13 (dd, J=5.7 and 13.8 Hz, 1H), 3.00 (dd, J=6.3 and 13.8 Hz, 1H), 1.43 (3, 9H).

reactant | (S)-2-tert-butoxycarbonylamino-3-(4-(4-formylphenoxy)phenyl)-propanoic acid | 7.7 moles, 2.97 Kg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC1=CC=C(C=C1)C=O | C21H23NO6
reactant | NaHCO3 | 15.4 moles, 1.29 Kg | C(=O)(O)[O-].[Na+]
reactant | iodomethane | 46.19 moles, 6.56 Kg | IC | CH3I
reactant | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
solvent | DMF | 14.84 L | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | 40 L | C(C)(=O)OCC | C4H8O2
product | (S)-2-tert-Butoxycarbonylamino-3-(4-(4-formylphenoxy)phenyl)-propanoic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)OC1=CC=C(C=C1)C=O)NC(=O)OC(C)(C)C)=O | C22H25NO6
